US06380156B1
Methyl (2R, 3S)-2-Azido-3-methylpentanoate (14).
Sodium azide (1.20 g, 18.6 mmol) was added to a stirred solution of methyl 2-tosyloxy-3-methylpentanoate (3.29 g, 10.9 mmol) in DMF (30 mL). The solution was kept at 50° C. for 24 h, then partitioned between EtOAc and water. The aqueous layer was separated and extracted with EtOAc (3×50 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to give a deep yellow oil (1.51 g, 81%), IR (neat) v 3500-3000 (very br m), 2970 (s), 2939 (br m), 2111 (s), 1736 (s), 1472 (w), 1387 (w), 1225 (br m), 1175 (w), 1086 (w), 732 (s) cm−1; 1H NMR (300 MHz, CDCl3) δ 0.93 (t, 3H), 0.97 (d, 3H), 1.22 & 1.43 (m, 1H), 1.96 (m, 1H), 3.78 (s, 3H), 3.85 (d, 2H); CIMS 172.1 (M+H).

reactant | Sodium azide | 18.6 mmol, 1.20 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 2-tosyloxy-3-methylpentanoate | 10.9 mmol, 3.29 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C(=O)OC)C(CC)C | C14H20O5S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Methyl (2R, 3S)-2-Azido-3-methylpentanoate | 1.51 g, 81% | N(=[N+]=[N-])[C@@H](C(=O)OC)[C@H](CC)C | C7H13N3O2
